US06844344B2
Preparation of (2S)-(−)-1-(4-Benzo[b]furanoxy)-3-(4-(3-methylbenzo[b]thiophen-2-yl)piperidin-1-yl)-2-propanol Hemihydrate.
A solution 4-hydroxy-4-(3-methylbenzo[b]thiophen-2-yl)piperidine (0.074 g, 0.320 mmol) and (S)-(+)-4-(oxiranylmethoxy)-benzo[b]furan (0.061 g, 0.320 mmol) in methanol (3 mL) was heated at reflux for 18 hours and then cooled and evaporated. The residue was purified using silica gel chromatography (dichloromethane/1% methanol in dichloromethane gradient elution) to give the final title compound as a clear colorless oil (0.057 g, 42%). FDMS m/e=422 (M++1). C25H27NO3S.0.5H2O

reactant | 4-hydroxy-4-(3-methylbenzo[b]thiophen-2-yl)piperidine | 0.320 mmol, 0.074 g | OC1(CCNCC1)C1=C(C2=C(S1)C=CC=C2)C | C14H17NOS
reactant | (S)-(+)-4-(oxiranylmethoxy)-benzo[b]furan | 0.320 mmol, 0.061 g | O1[C@@H](C1)COC1=CC=CC=2OC=CC21 | C11H10O3
solvent | methanol | 3 mL | CO | CH4O
product | (2S)-(−)-1-(4-Benzo[b]furanoxy)-3-(4-(3-methylbenzo[b]thiophen-2-yl)piperidin-1-yl)-2-propanol Hemihydrate | 0.057 g, 42% | O.O1C2=C(C=C1)C(=CC=C2)OC[C@H](CN2CCC(CC2)C2=C(C1=C(S2)C=CC=C1)C)O.O1C2=C(C=C1)C(=CC=C2)OC[C@H](CN2CCC(CC2)C2=C(C1=C(S2)C=CC=C1)C)O | InChI=1S/2C25H27NO3S.H2O/c2*1-17-20-5-2-3-8-24(20)30-25(17)18-9-12-26(13-10-18)15-19(27)16-29-23-7-4-6-22-21(23)11-14-28-22;/h2*2-8,11,14,18-19,27H,9-10,12-13,15-16H2,1H3;1H2/t2*19-;/m00./s1
